US06191273B1
6-(1-Anthraquinonecarbonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene
The title compound was prepared following the procedures illustrated above in Example 78 using 6-(1-anthraquinonecarbonyl)-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]hexadeca-1(16),12,14-triene (1.02 g, 1.24 mmol), thiophenol (0.41 g, 3.72 mmol) and K2CO3 (1.7 g, 12.5 mmol). The crude material was purified by flash chromatography on a silica gel column using CH2Cl2 and then MeOH, 15:1 MeOH—NH4OH (30%) as eluents to give 0.45 g (80%) of the title compound as a pale yellow foam.

reactant | 6-(1-anthraquinonecarbonyl)-3,10-bis(2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo[10.3.1]hexadeca-1(16),12,14-triene | 1.24 mmol, 1.02 g | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)N1CCN(CC=2C=CC=C(CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C39H32N6O11S2
reactant | thiophenol | 3.72 mmol, 0.41 g | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 12.5 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(1-Anthraquinonecarbonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene | 0.45 g, 80% | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)N1CCNCC=2C=CC=C(CNCCC1)N2 | C27H26N4O3
